US07547680B2
2,5,6-Trichloro-1H-benzimidazole
5,6-Dichloro-1,3-dihydro-2H-benzimidazol-2-one (11.5 g) was suspended in phosphorus oxychloride (40 mL), and the mixture was stirred at 120° C. for 24 hours. After cooling the reaction mixture, water was added to the reaction mixture, and to the mixture was added 28% aqueous ammonia solution to alkalize. The solid was collected by filtration and dried to give the title compound (5.0 g).

reactant | 5,6-Dichloro-1,3-dihydro-2H-benzimidazol-2-one | 11.5 g | ClC1=CC2=C(NC(N2)=O)C=C1Cl | C7H4Cl2N2O
reactant | water | O | H2O
reactant | ammonia | N | H3N
reactant | phosphorus oxychloride | 40 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2,5,6-Trichloro-1H-benzimidazole | 5.0 g | ClC1=NC2=C(N1)C=C(C(=C2)Cl)Cl | C7H3Cl3N2
